US05811389
A solution of 0.67 g (0.84 mmol) of benzyl 5-[(N-benzyloxycarbonyl-O-tert-butyl-L-threonyl-glycyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate in 100 ml of e methanol was treated with 140 mg of palladium/charcoal (10%) and stirred under hydrogen for 1. hour. Thereafter, the catalyst was filtered off and the filtrate was brought to dryness. 0.46 g of 5-[O-tert-butyl-L-threonyl-glycyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetic acid was obtained as the residue in the form of a colourless amorphous powder; IR 3400-2500, 1675, 1606, 1578, 1531, 1493 cm-1.

reactant | benzyl 5-[(N-benzyloxycarbonyl-O-tert-butyl-L-threonyl-glycyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate | 0.84 mmol, 0.67 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)NCC(=O)NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)OCC1=CC=CC=C1 | C45H53N3O10
catalyst | palladium/charcoal | 140 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3,6-dimethoxy-9,9-dimethylxanthene-4-acetic acid | COC=1C=CC=2C(C3=CC=C(C=C3OC2C1CC(=O)O)OC)(C)C | C19H20O5
